US06071925
(S)-1-Indan-1-yl-piperidine-4-one
(S)-1-Aminoindane (37 mmol) was dissolved in ethanol (65 ml). Potassium carbonate (3.7 mmol) and 1-ethyl-1-methyl-4-oxo-piperidinium iodide (56 mmol) dissolved in water (30 ml) were added and the mixture was refluxed for 30 mil. Water was added, ethanol was removed in vacuo and the residue was extracted with ethyl acetate. Organic phases were pooled, dried with sodium sulfate and concentrated. Chromatography on silica gel (ethyl acetate) yielded the desired product as an oil. 7.1 g (90%) of (S)-1-indan-1-yl-piperidine-4-one, MS: m/e=216.4 (M+H+).

reactant | (S)-1-Aminoindane | 37 mmol | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | Potassium carbonate | 3.7 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethyl-1-methyl-4-oxo-piperidinium iodide | 56 mmol | [I-].C(C)[N+]1(CCC(CC1)=O)C
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | (S)-1-Indan-1-yl-piperidine-4-one | [C@@H]1(CCC2=CC=CC=C12)N1CCC(CC1)=O | C14H17NO
